US04518806
Phenol (21.21 grams; 0.25 mole) and methylbenzyl alcohol (30.5 grams; 0.25 mole) in 100.00 grams of ethylbenzene were refluxed at a temperature of from about 135° to 140° C. for about four hours with 0.500 grams (0.33 weight percent) concentrated sulfuric acid. Water was removed overhead as a azeotrope and was collected in a Dean-Stark trap. Methylbenzyl alcohol conversion was quantitative but only 8% selectivity to α-phenylmethylbenzyl ether was obtained. The remaining product was styrene (74.8% selectivity) and styrene polymer.

reactant | Phenol | 0.25 mole, 21.21 grams | C1(=CC=CC=C1)O | C6H6O
reactant | methylbenzyl alcohol | 0.25 mole, 30.5 grams | CC(C1=CC=CC=C1)O | C8H10O
reactant | sulfuric acid | 0.500 grams | S(O)(O)(=O)=O | H2O4S
solvent | ethylbenzene | 100.00 grams | C(C)C1=CC=CC=C1 | C8H10
product | α-phenylmethylbenzyl ether | C1(=CC=CC=C1)CC(C1=CC=CC=C1)OC(C1=CC=CC=C1)CC1=CC=CC=C1 | C28H26O
